US07262212B2
A solution of tert-butyl piperazine-1-carboxylate (6 g, 32.3 mmol) in THF (50 ml) was gradually added dropwise to a solution of methyl vinyl ketone (2.3 g, 32.9 mmol) in THF (25 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=20/1) to afford tert-butyl 4-(3-oxobutyl)piperazine-1-carboxylate (7.2 g, yield 87%)as a pale yellow oil.

reactant | tert-butyl piperazine-1-carboxylate | 32.3 mmol, 6 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | methyl vinyl ketone | 32.9 mmol, 2.3 g | C(=C)C(=O)C | C4H6O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-oxobutyl)piperazine-1-carboxylate | 7.2 g, yield 87% | O=C(CCN1CCN(CC1)C(=O)OC(C)(C)C)C | C13H24N2O3
